US08278441B2
5-((7aS)-2-Amino-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-7a-yl)-2-fluorophenol
To a −78° C. solution of (7aS)-7a-(4-fluoro-3-methoxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine (0.717 g, 2.56 mmol) in CH2Cl2 (15 mL) is added boron tribromide 11.20 g, 7.67 mmol). The reaction is warmed to 0° C. and is stirred for 2 hr. The reaction is diluted with water and the pH is adjusted to 7. The aqueous is extracted three times with EtOAc (some MeOH is added to help dissolve some solids during the extraction). The organic layer is dried over Na2SO4 and the solvent is removed under reduced pressure. The crude product is purified with a 10 g SCX column using 4:1 CH2Cl2:MeOH and then 2:1 CH2Cl2:7 N NH3 in MeOH to elute the product and give the title compound (0.56 g, 82%). ES/MS m/e: 267 (M+1).

reactant | (7aS)-7a-(4-fluoro-3-methoxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine | 2.56 mmol, 0.717 g | FC1=C(C=C(C=C1)[C@@]12N=C(SCC1CCC2)N)OC | C14H17FN2OS
reactant | boron tribromide | 7.67 mmol, 11.20 g | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-((7aS)-2-Amino-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-7a-yl)-2-fluorophenol | 0.56 g, 82% | NC=1SCC2[C@@](N1)(CCC2)C=2C=CC(=C(C2)O)F | C13H15FN2OS
